US20010021718A1
tert-Butyl (3R)-3-[({[(Z)-1-amino-2-(propylsulfonyl)ethylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate
A solution of (2R)-2-(2-tert-butoxy-2-oxoethyl)-5-cyclohexylpentanoic acid (Preparation 1) (500 mg, 1.67 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (354 mg, 1.85 mmol), N-methylmorpholine (203 l, 1.85 mmol) and 1-hydroxybenzotriazole hydrate (227 mg, 1.67 mmol) in dichloromethane (20 ml) was treated with (1Z)-N′-hydroxy-2-(propylsulfonyl)ethanimidamide (300 mg, 1.67 mmol) and stirred at room temperature for 18 hours. The reaction mixture was diluted with water (10 ml) and stirred for 20 minutes. The layers were separated via a 5 micron filter cartridge. The organic solvent was removed under reduced pressure to afford the title compound as a yellow solid (760 mg).

reactant | (2R)-2-(2-tert-butoxy-2-oxoethyl)-5-cyclohexylpentanoic acid | 1.67 mmol, 500 mg | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.85 mmol, 354 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 1.85 mmol, 203 l | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole hydrate | 1.67 mmol, 227 mg | O.ON1N=NC2=C1C=CC=C2
reactant | (1Z)-N′-hydroxy-2-(propylsulfonyl)ethanimidamide | 1.67 mmol, 300 mg | O\N=C(\CS(=O)(=O)CCC)/N | C5H12N2O3S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | tert-Butyl (3R)-3-[({[(Z)-1-amino-2-(propylsulfonyl)ethylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate | 760 mg | N\C(\CS(=O)(=O)CCC)=N/OC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C22H40N2O6S
